US05399291
0.45 g (0.0016 moles) of 4-decyloxybenzoic acid and 0.58 g (0.0016 moles) of 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)phenol (prepared essentially as in Example 5) were dissolved in 25 ml of methylene chloride. N,N-dicyclohexylcarbodiimide (0.35 g, 0.0017 moles) was added to the reaction mixture, followed by 0.05 g of 4-(N,N-dimethylamino)pyridine. The resultant mixture was stirred at room temperature under nitrogen for 18 hours. The resulting urea precipitate was removed from the product solution by filtration, and the filtrate was concentrated on a rotary evaporator at reduced pressure. The crude product was purified by flash chromatography on silica gel (chloroform) to yield 0.12 g of 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)phenyl 4-decyloxybenzoate.

reactant | 4-decyloxybenzoic acid | 0.0016 moles, 0.45 g | C(CCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C17H26O3
reactant | 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)phenol | 0.0016 moles, 0.58 g | C(CCC)OCC(C(C(COC1=CC=C(C=C1)O)(F)F)(F)F)(F)F | C15H18F6O3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.05 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)phenyl 4-decyloxybenzoate | 0.12 g | C(CCCCCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCC(C(C(COCCCC)(F)F)(F)F)(F)F)C=C1 | C32H42F6O5
